US06919404B2
2-Methyl-acrylic acid 6-[4-(2-hexadecyloxycarbonyl-vinyl)-phenoxy]-hexyl ester, Addition Monomer 2
To an ice-cooled solution of 3-[4-(6-hydroxy-hexyloxy)-phenyl]-acrylic acid hexadecyl ester (2.6 g, 5.3 mmol), triethylamine (0.99 ml, 7.4 mmol) and 4 crystals of BHT in tetrahydrofuran (30 ml) was added dropwise methacryloyl chloride (0.68 g, 6.9 mmol). The reaction mixture was allowed to react for 7.5 hours, warming to room temperature. Potassium hydroxide solution (5 wt %, 50 ml) was added and the solution extracted 3×100 ml ethyl acetate. The combined organic layers were washed with 100 ml portions of 1M HCl, water, brine and then dried with magnesium sulfate and concentrated. The crude product was purified by silica gel chromatography eluting with 10% ethyl acetate in hexane, followed by recrystallization from hexane, to give 0.37 g white solid, 95% pure by HPLC. H1 NMR (CDCl3): 7.65 (d, 1H, J=16 Hz), 7.49 (d, 2H, J=8.7 Hz), 6.90 (d, 2H, J=8.8 Hz), 6.33 (d, 1H, J=15.8 Hz), 6.12 (m, 1H), 5.57 (m, 1H), 4.19 (m, 4H), 4.00 (m, 2H), 1.96 (m, 3H), 1.8-1.4 (m, 8H), 1.28 (s, 32H), 0.90 (vt, 3H).

reactant | 3-[4-(6-hydroxy-hexyloxy)-phenyl]-acrylic acid hexadecyl ester | 5.3 mmol, 2.6 g | C(CCCCCCCCCCCCCCC)OC(C=CC1=CC=C(C=C1)OCCCCCCO)=O | C31H52O4
reactant | triethylamine | 7.4 mmol, 0.99 ml | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 6.9 mmol, 0.68 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | Potassium hydroxide | 50 ml | [OH-].[K+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Methyl-acrylic acid 6-[4-(2-hexadecyloxycarbonyl-vinyl)-phenoxy]-hexyl ester | 0.37 g | C(CCCCCCCCCCCCCCC)OC(=O)C=CC1=CC=C(OCCCCCCOC(C(=C)C)=O)C=C1 | C35H56O5
